US06756378B2
To a stirred solution of tert-butyl 3-methyl-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate (1.06 g, 2.60 mmol) in CH2Cl2 (10 ml) was added TFA (10 ml) and the reaction mixture was stirred at room temperature for 4 hr. The reaction mixture was concentrated to a small volume and poured into ice-H2O. The resulting precipitate was collected under a reduced pressure and the crude solid was recrystallized from MeOH—CHCl3—IPE to give 3-methyl-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetic acid (702 mg, 77%) as a white crystalline powder. mp 262-263° C.; 1H-NMR (DMSO-d6) δ2.24 (s, 3 H), 3.48 (s, 2 H), 7.03 (d, J=8.3 Hz, 1 H), 7.08 (s, 1 H), 7.26-7.30 (m, 1 H), 7.61-7.69 (m, 3 H), 7.88 (d, J=8.3 Hz, 1 H), 8.39 (s, 1 H), 8.55 (s, 1 H), 12.28 (br s, 1 H); Anal. Calcd. for C17H15F3N2O3: C, 57.96; H, 4.29; N, 7.95; F, 16.18. Found: C, 57.73; H, 4.23; N, 7.92; F, 16.05.

reactant | tert-butyl 3-methyl-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate | 2.60 mmol, 1.06 g | CC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C(F)(F)F)CC(=O)OC(C)(C)C | C21H23F3N2O3
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-methyl-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetic acid | 702 mg, 77% | CC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C(F)(F)F)CC(=O)O | C17H15F3N2O3
